US07645789B2
To a solution of 3-chloro-4,5-dihydroxybenzaldehyde (8.0 g, 46 mmol) and BrClCH2 (23.9 g, 185 mmol) in dry DMF (100 mL) was added Cs2CO3 (25 g, 190 mmol). The mixture was stirred at 60° C. overnight and was then poured into water. The resulting mixture was extracted with EtOAc (50 mL×3). The combined extracts were washed with brine (100 mL), dried over Na2SO4 and concentrated under reduced pressure to afford 7-chlorobenzo[d][1,3]dioxole-5-carbaldehyde (6.0 g, 70%). 1H NMR (400 MHz, CDCl3) δ 9.74 (s, 1H), 7.42 (d, J=0.4 Hz, 1H), 7.26 (d, J=3.6 Hz, 1H), 6.15 (s, 2H).

reactant | 3-chloro-4,5-dihydroxybenzaldehyde | 46 mmol, 8.0 g | ClC=1C=C(C=O)C=C(C1O)O | C7H5ClO3
reactant | Cs2CO3 | 190 mmol, 25 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 7-chlorobenzo[d][1,3]dioxole-5-carbaldehyde | 6.0 g, 70% | ClC1=CC(=CC2=C1OCO2)C=O | C8H5ClO3
